US07368579B2
Solution of 2-bromo-1-methoxymethyl-4-nitroimidazole (11.17 g), methanol (10 ml) and 5N hydrochloric acid (60 ml) was stirred under refluxing condition for 2.5 hours. After being let to stand the reaction mixture at a room temperature for 24 hours, the mixture was stirred for 1 hour under ice-cooling condition, the precipitated crystals were collected by filtration, and dried at 50° C. under a reduced pressure for 24 hours, there was obtained 2-bromo-4-nitroimidazole (6.0 g, yield: 66.0%) of white powdery product.

reactant | 2-bromo-1-methoxymethyl-4-nitroimidazole | 11.17 g | BrC=1N(C=C(N1)[N+](=O)[O-])COC | C5H6BrN3O3
reactant | hydrochloric acid | 5N, 60 ml | Cl | ClH
solvent | methanol | 10 ml | CO | CH4O
product | 2-bromo-4-nitroimidazole | 6.0 g, yield: 66.0% | BrC=1NC=C(N1)[N+](=O)[O-] | C3H2BrN3O2
